US03983245
When an equivalent amount of o-hydroxyacetophenone is substituted in the procedure of Example 11 for salicylaldehyde and α-bromo-p-methoxyacetophenone is substituted for α-bromo-p-chloroacetophenone, there is ultimately obtained 3-methyl-2-(4-methoxybenzoyl)benzofuran. Demethylation of 3-methyl-2-(4-methoxybenzoyl)-benzofuran as described above gives 3-methyl-2-(4-hydroxybenzoyl)benzofuran.

reactant | o-hydroxyacetophenone | OC1=C(C=CC=C1)C(C)=O | C8H8O2
reactant | salicylaldehyde | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | α-bromo-p-methoxyacetophenone | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
reactant | α-bromo-p-chloroacetophenone | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | 3-methyl-2-(4-methoxybenzoyl)benzofuran | CC1=C(OC2=C1C=CC=C2)C(C2=CC=C(C=C2)OC)=O | C17H14O3
product | 3-methyl-2-(4-hydroxybenzoyl)benzofuran | CC1=C(OC2=C1C=CC=C2)C(C2=CC=C(C=C2)O)=O | C16H12O3
